US07223788B2
1-(4-Nitrophenyl)azetidin-3-ylamine
tert-Butyl [1-(4-nitrophenyl)azetidin-3-yl]carbamate was treated with trifluoroacetic acid by method G. This resulted in the product with the molecular weight of 193.21 (C9H11N3O2); MS (ESI): 194 (M+H+).

reactant | tert-Butyl [1-(4-nitrophenyl)azetidin-3-yl]carbamate | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(C1)NC(OC(C)(C)C)=O | C14H19N3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-Nitrophenyl)azetidin-3-ylamine | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(C1)N | C9H11N3O2
